US04030925
18. 3-Benzyl-1-[4-(2-formylhydrazino)phenyl]thiourea (NA-19)
1-Formyl-2-(4-aminophenyl)hydrazine (1.51 g, 0.01 mole) and benzyl isothiocyanate (1.49 g. p. 0.01 mole) were mixed in ethanol (30 ml) and the mixture was refluxed for 20 minutes. The product separated from solution as a white solid. The reaction mixture was chilled in ice and the solid was collected by filtration. The product was washed thoroughly with ether and then was dried. Yield 2.5 g (83%), m.p. 152°-154° C.

reactant | 1-Formyl-2-(4-aminophenyl)hydrazine | 0.01 mole, 1.51 g | C(=O)NNC1=CC=C(C=C1)N | C7H9N3O
reactant | benzyl isothiocyanate | 0.01 mole, 1.49 g | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Benzyl-1-[4-(2-formylhydrazino)phenyl]thiourea | C(C1=CC=CC=C1)NC(NC1=CC=C(C=C1)NNC=O)=S | C15H16N4OS
